US04444583
10 ml of nitric acid (100%) are added dropwise at a temperature of -5° to 0° C. within 5 minutes to a solution of 13.9 g of 1.4-bis(difluoromethoxy)benzene in 33 ml of 1.2-dichloroethane. The reaction mixture is stirred for a further hour at a temperature of 5° C. and allowed to warm to 15° C. within 1/2 hour. The mixture is then poured into icewater. The organic phase is separated, washed with 10% aqueous sodium hydroxide solution, dried over sodium sulfate and evaporated to dreyness, yielding 12.6 g of crude 2.5-bis(difluoromethoxy)-nitrobenzene in form of a yellowish oil.

reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1.4-bis(difluoromethoxy)benzene | 13.9 g | FC(OC1=CC=C(C=C1)OC(F)F)F | C8H6F4O2
solvent | 1.2-dichloroethane | 33 ml | ClCCCl | C2H4Cl2
product | 2.5-bis(difluoromethoxy)-nitrobenzene | 12.6 g | FC(OC1=C(C=C(C=C1)OC(F)F)[N+](=O)[O-])F | C8H5F4NO4
